US09334267B2
2-(1-(Trifluoromethyl)cyclopropyl)acetonitrile
Treat a solution of (1-(trifluoromethyl)cyclopropyl)methyl 4-methylbenzenesulfonate (12 g, 40.8 mmol) in DMF (150 mL) with potassium cyanide (3.5 g, 53 mmol) and heat at 50-70° C. for 3 days. Treat the mixture with water, extract with EtOAc (3×), wash the combined organics with water, then brine, dry and concentrate under reduced pressure to give the title compound (2.4 g, 39% yield). 1H NMR (400 MHz, CDCl3): δ 2.81 (s, 2H), 1.24-1.18 (m, 2H), 0.95-0.92 (m, 2H).

reactant | (1-(trifluoromethyl)cyclopropyl)methyl 4-methylbenzenesulfonate | 40.8 mmol, 12 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CC1)C(F)(F)F | C12H13F3O3S
reactant | potassium cyanide | 53 mmol, 3.5 g | [C-]#N.[K+]
reactant | water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-(1-(Trifluoromethyl)cyclopropyl)acetonitrile | 2.4 g, 39% yield | FC(C1(CC1)CC#N)(F)F | C6H6F3N
